US07317021B2
A11. 6-[(E)-2-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-vinyl]-4-methyl-pyridin-2-ylamine
1.20 g of N-{6-[(E)-2-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)-vinyl]-4-methyl-pyridin-2-yl}-acetamide (compound B10) are suspended in 12 ml of aqueous sulphuric acid (10% strength) at 115° C. for 17 h. Subsequently, the mixture is cooled to 0° C. and conc. aqueous ammonia is added until pH=10. Thereafter, the mixture is extracted 3 times each with 70 ml of ethyl acetate. The combined organic layers are dried using sodium sulphate, filtered with suction, and evaporated to dryness to yield 880 mg of the title compound as an oil, which solidifies upon standing. M.p. 280° C. ESI-MS: 330.2/332.2 (MH+; 100%/90%). TLC: Rf=0.35 (dichloromethane/methanol 10:1).

reactant | N-{6-[(E)-2-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)-vinyl]-4-methyl-pyridin-2-yl}-acetamide | 1.20 g | BrC=1C=C2C(=NC1)NC(=N2)/C=C/C2=CC(=CC(=N2)NC(C)=O)C | C16H14BrN5O
reactant | ammonia | N | H3N
solvent | sulphuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
product | 6-[(E)-2-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-vinyl]-4-methyl-pyridin-2-ylamine | 880 mg | BrC=1C=C2C(=NC1)NC(=N2)/C=C/C2=CC(=CC(=N2)N)C | C14H12BrN5
